US07459554B2
3-Cyclobutyl-1-phenylimidazo[1,5-a]pyrazin-8-ylamine:
C-(3-Chloropyrazin-2-yl)-C-phenylmethylamine: To a solution of 2-[(3-chloropyrazin-2-yl)-phenylmethyl]-isoindole-1,3-dione (7.70 g, 22 mmol), containing ≈0.77 eq. of reduced DIAD, in EtOH (10 mL) and co-solvent CH2Cl2 (15 mL), N2H4 (10 mL, 7.91 g, 0.172 mol) was added and the reaction solution was stirred at rt, under N2, for 1 d. The suspension was filtered, the orange solid was washed several times with CH2Cl2, and the filtrate was concentrated in vacuo. The residue was suspended between HCl (2M)/EtOAc and the EtOAc layer was discarded. The aqueous layer was brought to a basic pH using NaOH and extracted with CH2Cl2 (5×60 mL), washed with brine (2×50 mL), dried over MgSO4, filtered, and concentrated, giving 2.1923 g (45%; 9.9795 mmol) of the title compound, containing ≈0.1 eq. of reduced DIAD, as a brown oil; 1H NMR (CDCl3, 400 MHz) δ 2.24 (s, br, 2H), 5.56 (s, 1H), 7.26-7.38 (m, 5H), 8.27 (s, 1H), 8.55 (s, 1H). MS (ES+): m/z 203.2/205.2 (100/73) [MH+-NH3].

reactant | C-(3-Chloropyrazin-2-yl)-C-phenylmethylamine | ClC=1C(=NC=CN1)C(C1=CC=CC=C1)N | C11H10ClN3
reactant | 2-[(3-chloropyrazin-2-yl)-phenylmethyl]-isoindole-1,3-dione | 22 mmol, 7.70 g | ClC=1C(=NC=CN1)C(N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C19H12ClN3O2
reactant | DIAD | ≈0.77 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-Cyclobutyl-1-phenylimidazo[1,5-a]pyrazin-8-ylamine | C1(CCC1)C1=NC(=C2N1C=CN=C2N)C2=CC=CC=C2 | C16H16N4
